US05468877
Preparation of N-{{2,3-Dibromo-5-(p-chlorophenyl)-4[(trifluoromethyl)sulfonyl]pyrrol-1-yl}methyl)acetamide
A mixture of sodium hydride (0.5 g, 60%, 0.0125 mol) and tetrahydrofuran is treated with 2,3-dibromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole (4.67 g, 0.01 mol), stirred for 15 minutes and treated with a solution of N-(hydroxymethyl)acetamide acetate (ester) (1.64 g, 0.0125 mol) in tetrahydrofuran. The reaction mixture is heated at reflux for 18 hours, concentrated in vacuo and poured into a water/ether mixture. The organic phase is separated, washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain the title product as a white solid (4.56 g).

reactant | sodium hydride | 0.0125 mol, 0.5 g | [H-].[Na+]
reactant | 2,3-dibromo-5-(p-chlorophenyl)-4-[(trifluoromethyl)sulfonyl]pyrrole | 0.01 mol, 4.67 g | BrC=1NC(=C(C1Br)S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl | C11H5Br2ClF3NO2S
reactant | N-(hydroxymethyl)acetamide acetate | 0.0125 mol, 1.64 g | C(C)(=O)O.OCNC(C)=O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{{2,3-Dibromo-5-(p-chlorophenyl)-4[(trifluoromethyl)sulfonyl]pyrrol-1-yl}methyl)acetamide | 4.56 g | BrC=1N(C(=C(C1Br)S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)Cl)CNC(C)=O | C14H10Br2ClF3N2O3S
